2197-03-03 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EGD deferred
   - Intubated for increased WOB and hypoxia
   - L IJ placed
   - a-line placed
   - started on levo (0.2), dopa (2.5) -> weaned to 0.15 levophed, back up
   to levo (0.3), vaso (2.4)
   - received 6L of IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-3-2**] 08:30 PM
   Piperacillin - [**2197-3-3**] 12:00 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2197-3-2**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-3-2**] 04:00 PM
   Pantoprazole (Protonix) - [**2197-3-2**] 09:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-3**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 79 (64 - 79) bpm
   BP: 123/48(68) {97/32(50) - 129/51(354)} mmHg
   RR: 26 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 12 (8 - 12)mmHg
   Total In:
                                                                  4,238 mL
                                                                  2,539 mL
   PO:
   TF:
   IVF:
                                                                  4,238 mL
                                                                  2,439 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    262 mL
   Urine:
                                                                  1,620 mL
                                                                    262 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,618 mL
                                                                  2,277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: 7.27/31/89.[**Numeric Identifier 299**]/13/-11
   Ve: 15.2 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : throughout, No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Intubated and sedated, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   108 K/uL
   8.3 g/dL
   129 mg/dL
   1.5 mg/dL
   13 mEq/L
   3.8 mEq/L
   51 mg/dL
   110 mEq/L
   138 mEq/L
   23.9 %
   18.7 K/uL
        [image002.jpg]
                             [**2197-3-2**]  05:30 AM
                             [**2197-3-2**]  12:58 PM
                             [**2197-3-2**]  01:03 PM
                             [**2197-3-2**]  07:00 PM
                             [**2197-3-2**]  07:31 PM
                             [**2197-3-2**]  10:08 PM
                             [**2197-3-3**]  02:19 AM
                             [**2197-3-3**]  03:44 AM
                             [**2197-3-3**]  03:58 AM
   WBC
   24.7
   18.7
   Hct
   26.6
   25.4
   25.0
   23.9
   Plt
   112
   108
   Cr
   0.8
   1.5
   1.5
   TCO2
   17
   17
   15
   15
   15
   Glucose
   131
   150
   140
   129
   Other labs: PT / PTT / INR:40.0/187.3/4.3, ALT / AST:40/67, Alk Phos /
   T Bili:91/28.4, Amylase / Lipase:52/63, Differential-Neuts:90.4 %,
   Lymph:6.0 %, Mono:2.6 %, Eos:0.8 %, Lactic Acid:3.3 mmol/L, Albumin:4.1
   g/dL, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 39 y/o M hx ETOH cirrhosis with portal HTN, recent admission
   here for alcoholic hepatitis, hemochromatosis, HTN, DM now with new
   oxygen requirement and exam consistent with volume overload.
   .
   # Hypoxia: I suspect that over his hospital course, he has been
   receiving IVF (thought I/O poorly documented) for his ARF, which has
   since resolved. Furthermore, he received a large Na load and increase
   in oncotic pressure today with albumin load which may have resulted in
   worsening pulmonary edema. He has not been tachycardic or hypertensive.
   High clinical suspicion for pneumonia or aspiration with large amounts
   of [**Location (un) 257**] secretions as cause of his hypoxia.
   - wean vent as tolerated
   - cont vanc/zosyn
   - repeat CXR in AM
   - would avoid fluid overload but needs aggressive hydration for shock
   .
   # Hypotension: Likely septic shock given acute decline in respiratory
   status, refractory hypotension and likely pulm source.
   - on levo, vaso and dopa -> wean as tolerated
   - aggressive fluid boluses
   - ?steroids
   #. ETOH cirrhosis/alcoholic hepatitis: Decompensated alcoholic liver
   disease with cirrhosis and portal HTN, coagulopathy,
   hyperbilirubinemia. Last alcohol [**1-24**], will need to wait 2 months to
   become transplant candidate. Still with slowed speech, asterixis
   - follow synthetic function, supportive management
   - increase lactulose to 30mg tid, rifaximin
   - nadolol d/c given hemodynamic status
   - calorie count
   .
   #. SBP: Initial paracentesis [**2-17**] at [**Hospital6 **] with 3929
   WBCs and 80% neutrophils, TP 0.6, alb<0.1, started on CTX. s/p
   diagnostic paracentesis [**2-25**] with no evidence of SBP, CTX discontinued,
   restarted on prednisone. Repeat diagnostic paracentesis done [**2-27**] showed
   450 WBC, restarted on CTX, albumin
   - f/u peritoneal fluid cx
   - Blood cx NGTD, urine cx negative
   - C.diff negative x 1 here (negative at [**Hospital3 1322**])
   .
   # Anemia: Hct declining and persistently guiaic+ stools, was supposed
   to get EGD in the AM [**3-2**] but was deferred by GI given clinical status.
   Prior EGD with non-bleeding varices. Chronic anemia macrocytic likely
   from liver disease. B12 and folate wnl within the last month. Iron
   studies c/w ACD.  Now likely DIC.
   - hold EGD until clinical status improves
   - f/u fibrinogen in AM
   - transfuse blood products PRN
   - [**Hospital1 **] HCT and coags
   .
   # Acute renal failure: Pt with creatinine to 2.2 at [**Hospital3 1322**] in the
   setting of starting diuretics. Resolved with hydration, albumin
   - continue to monitor and trend
   .
   # Leukocytosis: Suspect from pulmonary source, alcoholic hepatitis or
   SBP. No other infectious source identified to date.
   - cont vanc/zosyn
   - f/u final blood and fluid cultures (NGTD)
   - obtain sputum cx today
   - trend WBC
   .
   #. ETOH use: Patient has heavy history of ETOH use, in detox recently,
   but outside window for withdrawal. Tox screen negative
   - appreciate social work, addictions consults
   - continue MVI, thiamine, folate
   .
   #. ? Hemochromatosis:  but heterozygote and prior labs not consistent
   with actual active disease. Ferritin very elevated.
   .
   #. DM: BS stable. Per notes, at home patient on metfomin.
   - cont. insulin sliding scale
   .
   #. Hyponatremia: likely [**2-27**] liver disease. At OSH Na has been ranging
   124-127.
   .
   #. FEN: Diabetic, low salt, low protein diet
   .
   #. Access: PIV, L IJ and A-line
   .
   #. PPx:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -protonix
   .
   #. Code: Full code
   .
   #. Dispo: ICU pending stablization of above
   .
   #. Comm - fiance [**Doctor First Name 684**] [**Telephone/Fax (1) 4456**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-3-2**] 01:45 PM
   Multi Lumen - [**2197-3-2**] 04:12 PM
   Arterial Line - [**2197-3-2**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-03-04 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-3**] Events:
   Dr. [**Last Name (STitle) **] discussed on the phone with the two proxy the [**Name2 (NI) **] prognosis.
   Family will reassess code status today.
   - ABG cont to be very acidotic, increased the RR from 14 to 20
   - hepatology recs, cont current mgt
   - INR actual is 3.7, no FFP
 BLOOD CULTURED - At [**2197-3-3**] 02:30 PM
 URINE CULTURE - At [**2197-3-3**] 03:49 PM
 SPUTUM CULTURE - At [**2197-3-3**] 04:22 PM
 FEVER - 102.0
F - [**2197-3-3**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-3-3**] 08:00 PM
   Piperacillin - [**2197-3-4**] 12:12 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Dopamine - 5 mcg/Kg/min
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2197-3-3**] 10:04 AM
   Fentanyl - [**2197-3-3**] 10:04 AM
   Pantoprazole (Protonix) - [**2197-3-3**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-4**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.8
   HR: 93 (89 - 108) bpm
   BP: 104/50(66) {75/38(50) - 126/66(83)} mmHg
   RR: 20 (18 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 88.1 kg
   Height: 70 Inch
    CVP: 7 (6 - 14)mmHg
   Total In:
                                                                  5,549 mL
                                                                    572 mL
   PO:
   TF:
                                                                     90 mL
                                                                     50 mL
   IVF:
                                                                  5,114 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  1,067 mL
                                                                    545 mL
   Urine:
                                                                  1,067 mL
                                                                    300 mL
   NG:
                                                                    245 mL
   Stool:
   Drains:
   Balance:
                                                                  4,482 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (500 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.26/33/137/13/-11
   Ve: 11.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : throughout, No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Intubated and sedated, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   139 K/uL
   7.9 g/dL
   187 mg/dL
   2.0 mg/dL
   13 mEq/L
   3.5 mEq/L
   59 mg/dL
   110 mEq/L
   139 mEq/L
   25.0 %
   23.2 K/uL
        [image002.jpg]
                             [**2197-3-3**]  02:19 AM
                             [**2197-3-3**]  03:44 AM
                             [**2197-3-3**]  03:58 AM
                             [**2197-3-3**]  12:03 PM
                             [**2197-3-3**]  02:30 PM
                             [**2197-3-3**]  04:46 PM
                             [**2197-3-3**]  10:00 PM
                             [**2197-3-3**]  11:19 PM
                             [**2197-3-4**]  02:00 AM
                             [**2197-3-4**]  03:18 AM
   WBC
   18.7
   21.9
   23.2
   Hct
   23.9
   24.9
   25.0
   Plt
   108
   146
   139
   Cr
   1.5
   1.6
   2.0
   TCO2
   15
   15
   15
   15
   15
   15
   Glucose
   140
   129
   134
   210
   187
   Other labs: PT / PTT / INR:35.8/81.1/3.8, ALT / AST:50/99, Alk Phos / T
   Bili:96/36.4, Amylase / Lipase:52/63, Differential-Neuts:90.4 %,
   Lymph:6.0 %, Mono:2.6 %, Eos:0.8 %, Fibrinogen:139 mg/dL, Lactic
   Acid:3.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   This is a 39 y/o M hx ETOH cirrhosis with portal HTN, recent admission
   here for alcoholic hepatitis, hemochromatosis, HTN, DM now with new
   oxygen requirement and exam consistent with volume overload.
   .
   # Hypoxia: Initial suspicion was from fluid overload with large amounts
   of albumin, however pt now with ARDS likely related overwhelming
   pneumonia or aspiration. Pt with large amounts of [**Location (un) 257**] secretions
   from ETT.
   - unlikely to be independent from vent
   - cont vanc/zosyn for HAP/aspiration
   - would avoid fluid overload but needs aggressive hydration for shock,
   still volume depleted
   .
   # Hypotension: Likely septic shock given acute decline in respiratory
   status, refractory hypotension and likely pulm source.
   - in terms of hemodynamics, likely intravascularly depleted.  Goal CVP
   for 14 due to pleural pressure of ventilator.  Will check bladder
   pressure to rule out abdominal compartment syndrome and assess for need
   of higher CVP.
   - replete intravascular volume with FFP
 will also correct
   coagulopathy
   - adding vasopressin today, will wean dopamine as tolerated.  Cont
   [**Location (un) 4507**], can wean as tolerated.  Plan is if able to wean off dopamine
   and [**Last Name (LF) 4507**], [**First Name3 (LF) **] not stop vasopressin for 24 hours after stable BPs
   - no utility for steroids
   #. ETOH cirrhosis/alcoholic hepatitis: Decompensated alcoholic liver
   disease with cirrhosis and portal HTN, coagulopathy,
   hyperbilirubinemia. Last alcohol [**1-24**], will need to wait 2 months to
   become transplant candidate. Sedated now.
   - follow synthetic function, supportive management
   - increase lactulose to 30mg tid, rifaximin
   - stopping all sedatives today to see if mental status improves and
   he
s able to communicate
   - nadolol d/c given hemodynamic status
   - f/u fibrinogen, HCT and coags
   .
   #. SBP: Initial paracentesis [**2-17**] at [**Hospital6 **] with 3929
   WBCs and 80% neutrophils, TP 0.6, alb<0.1, started on CTX. s/p
   diagnostic paracentesis [**2-25**] with no evidence of SBP, CTX discontinued,
   restarted on prednisone. Repeat diagnostic paracentesis done [**2-27**] showed
   450 WBC
   - on vanco/zosyn
   - vanco trough 38.4, will hold vanco today and recheck trough tomorrow
   - f/u peritoneal fluid cx
   - intermittently monitor bladder P to assess for abdominal compartment
   syndrome
   - Blood cx NGTD, urine cx negative
   - C.diff negative x 1 here (negative at [**Hospital3 1322**])
   .
   # Anemia: Hct declining and persistently guiaic+ stools, was supposed
   to get EGD in the AM [**3-2**] but was deferred by GI given clinical status.
   Prior EGD with non-bleeding varices. Chronic anemia macrocytic likely
   from liver disease. B12 and folate wnl within the last month. Iron
   studies c/w ACD.  .
   - Hct stable
   - EGD deferred, holding nadolol
   - transfuse blood products PRN for Hct <21
   - [**Hospital1 **] HCT and coags
   - correcting coagulopathy today with FFP
   .
   # Acute renal failure: Pt with creatinine to 2.2 at [**Hospital3 1322**] in the
   setting of starting diuretics. Resolved with hydration, albumin
   -          creatinine 2.0 today likely from poor perfusion
   -          cont with intravascular repletion as above
   -          monitor for abd compartment syndrome
   .
   # Leukocytosis: Suspect from pulmonary source, alcoholic hepatitis or
   SBP. No other infectious source identified to date.
   - cont vanc/zosyn
   - f/u final blood and fluid cultures (NGTD)
   - sputum gram stain neg, f/u cx
   - trend WBC
   .
   #. ETOH use: Patient has heavy history of ETOH use, in detox recently,
   but outside window for withdrawal. Tox screen negative
   - appreciate social work, addictions consults
   .
   #. ? Hemochromatosis:  but heterozygote and prior labs not consistent
   with actual active disease. Ferritin very elevated.
   .
   #. DM: BS stable. Per notes, at home patient on metfomin.
   - cont. insulin sliding scale
   .
   #. Hyponatremia: likely [**2-27**] liver disease. At OSH Na has been ranging
   124-127.   Na 139 here.
   .
   #. FEN: Tube feeds, has been having large residuals, pt having bowel
   movements, though
   .
   #. Access:  L IJ and A-line
   .
   #. PPx:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -protonix
   .
   #. Code: Full code
   .
   #. Dispo: ICU pending stablization of above
 will need to discuss with
   [**Doctor First Name 684**] today the pt
s mortality, very unlikely to survive from current
   condition.
   .
   #. Comm - fiance [**Doctor First Name 684**] [**Telephone/Fax (1) 4456**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-3-2**] 01:45 PM
   Multi Lumen - [**2197-3-2**] 04:12 PM
   Arterial Line - [**2197-3-2**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-03-04 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension, chronic renal
   failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on vasopressors with acidemia. Respiratory rate increased from
   14 to 20. ABG 7.28/32/121. Lactates have been [**3-29**]. Dopamine weaned from
   10 to 5 mcg/kg/min. Fentanyl weaned. Versed off. Patient remains
   unresponsive. CVP about 10.  Creat rising, as are LFT's. INR 3.9.
   24 Hour Events:
 BLOOD CULTURED - At [**2197-3-3**] 02:30 PM
 URINE CULTURE - At [**2197-3-3**] 03:49 PM
 SPUTUM CULTURE - At [**2197-3-3**] 04:22 PM
 FEVER - 102.0
F - [**2197-3-3**] 08:00 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-3-3**] 08:00 PM
   Piperacillin - [**2197-3-4**] 12:12 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Dopamine - 5 mcg/Kg/min
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2197-3-3**] 10:04 AM
   Fentanyl - [**2197-3-3**] 10:04 AM
   Pantoprazole (Protonix) - [**2197-3-3**] 09:00 PM
   Other medications:
   Insulin, MVI, thiamine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-4**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.8
   HR: 89 (89 - 108) bpm
   BP: 106/53(69) {75/38(50) - 123/66(83)} mmHg
   RR: 20 (18 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 88.1 kg
   Height: 70 Inch
   CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  5,549 mL
                                                                    662 mL
   PO:
   TF:
                                                                     90 mL
                                                                     50 mL
   IVF:
                                                                  5,114 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  1,067 mL
                                                                    695 mL
   Urine:
                                                                  1,067 mL
                                                                    450 mL
   NG:
                                                                    245 mL
   Stool:
   Drains:
   Balance:
                                                                  4,482 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (500 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.28/32/121/13/-10
   Ve: 12 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Sclera edema, scleral
   icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : ), Scattered rales. Good air movement
   Abdominal: Soft, Non-tender, Distended, No(t) Tender: , Obese, Grossly
   distended; not tense
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   139 K/uL
   187 mg/dL
   2.0 mg/dL
   13 mEq/L
   3.5 mEq/L
   59 mg/dL
   110 mEq/L
   139 mEq/L
   25.0 %
   23.2 K/uL
        [image002.jpg]
                             [**2197-3-3**]  03:44 AM
                             [**2197-3-3**]  03:58 AM
                             [**2197-3-3**]  12:03 PM
                             [**2197-3-3**]  02:30 PM
                             [**2197-3-3**]  04:46 PM
                             [**2197-3-3**]  10:00 PM
                             [**2197-3-3**]  11:19 PM
                             [**2197-3-4**]  02:00 AM
                             [**2197-3-4**]  03:18 AM
                             [**2197-3-4**]  07:06 AM
   WBC
   18.7
   21.9
   23.2
   Hct
   23.9
   24.9
   25.0
   Plt
   108
   146
   139
   Cr
   1.5
   1.6
   2.0
   TCO2
   15
   15
   15
   15
   15
   16
   Glucose
   140
   129
   134
   210
   187
   Other labs: PT / PTT / INR:35.8/81.1/3.8, ALT / AST:50/99, Alk Phos / T
   Bili:96/36.4, Amylase / Lipase:52/63, Differential-Neuts:90.4 %,
   Lymph:6.0 %, Mono:2.6 %, Eos:0.8 %, Fibrinogen:139 mg/dL, Lactic
   Acid:3.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 COAGULOPATHY
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 NAUSEA / VOMITING
   Patient persistently hypotensive. Filling pressure low correcting for
   pleural pressure. CVP drops on inspiration consistent with patient not
   being volume resuscitated. Would give FFP given prolonged INR and low
   normal albumin. Would add vasopressin given exam suggesting low SVR.
   Try to wean dopamine. Check bladder pressure to insure that we do not
   have an abdominal compartment syndrome.
   Renal function worsening. Improve hemodynamics as above.
   Liver functioning worsening. Patient not considered a transplant
   candidate.
   Oxygenation stable. Will try to reduce PEEP to aid hemodynamics today.
   CXR from yesterday with diffuse alveolar infiltrates consistent with
   pneumonia and ARDS. Doubt CHF still playing a role given the low
   filling pressure.
   Hct stable. Not at transfusion threshold. INR elevated. FFP as above.
   Metabolic acidosis likely due to lactate and renal failure. Potassium
   being repleted.
   Altered mental status persists
 fentanyl to come off; versed stopped.
   Lactulose continues.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2197-3-2**] 01:45 PM
   Multi Lumen - [**2197-3-2**] 04:12 PM
   Arterial Line - [**2197-3-2**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill